US07256198B2
Step 1: 1-Methyl-4-({(2S)-1-[(4-methylphenyl)sulfonyl]pyrrolidin-2-yl}methyl)piperazine
To a solution of {(2S)-1-[(4-methylphenyl)sulfonyl]pyrrolidin-2-yl}methyl 4-methylbenzenesulfonate (9.427 g, 23.13 mmol) (Tetrahedron, 43(14), 3289, 1987) in toluene (150 mL), was added n-methyl-piperazine (12.8 mL, 115.65 mmol) and DBU (0.352 g, 2.313 mmol) and the solution was stirred at 140° C. overnight. The reaction was then diluted with ether and washed with brine. The organic layer was dried over Na2SO4, filtered, concentrated and purified on Biotage flash 40M cartridge silica gel eluting with CH2Cl2/CH3OH/NH4OH (95.5/3/1.5) to give an off white solid (2.570 g, 55% ). NMR (400 Mz, DMSO-d6): consistent. MS (ES+) m/z 338.1 [M+H]. m.p.: 96.5-97.7° C. Reference: (Tetrahedron, 43(14), 3289, 1987).

reactant | {(2S)-1-[(4-methylphenyl)sulfonyl]pyrrolidin-2-yl}methyl 4-methylbenzenesulfonate | 23.13 mmol, 9.427 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1N(CCC1)S(=O)(=O)C1=CC=C(C=C1)C | C19H23NO5S2
reactant | n-methyl-piperazine | 115.65 mmol, 12.8 mL | CN1CCNCC1 | C5H12N2
reactant | DBU | 2.313 mmol, 0.352 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
solvent | ether | CCOCC | C4H10O
product | 1-Methyl-4-({(2S)-1-[(4-methylphenyl)sulfonyl]pyrrolidin-2-yl}methyl)piperazine | 2.570 g, 55% | CN1CCN(CC1)C[C@H]1N(CCC1)S(=O)(=O)C1=CC=C(C=C1)C | C17H27N3O2S
